US04883815
1 ml of concentrated hydrochloric acid is added to a solution of 2.66 g (0.007 mol) of N-[3-[(11-chloro-2,3,5,6,7,8-hexahydro-3,8-dioxo-4-benzazecin-4-(1H)-yl)carbonyl]propyl]acetamide in 100 ml of ethanol and 30 ml of methylene chloride and the mixture is stirred at room temperature for 5 days. The solution is concentrated, extracted with methylene chloride/water, dried with magnesium sulfate and the solvent is distilled in a vacuum. Chromatography on aluminum oxide with ethyl acetate/ethanol (19:1) and crystallization from methylene chloride/ether gives ethyl 2-[4-(4-acetamidobutyramido)butyryl]-5-chlorohydrocinnamate as white crystals with melting point 95°.

reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | N-[3-[(11-chloro-2,3,5,6,7,8-hexahydro-3,8-dioxo-4-benzazecin-4-(1H)-yl)carbonyl]propyl]acetamide | 0.007 mol, 2.66 g | ClC1=CC2=C(C(CCCN(C(CC2)=O)C(=O)CCCNC(C)=O)=O)C=C1 | C19H23ClN2O4
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-[4-(4-acetamidobutyramido)butyryl]-5-chlorohydrocinnamate | C(C)(=O)NCCCC(=O)NCCCC(=O)C1=C(CCC(=O)OCC)C=C(C=C1)Cl | C21H29ClN2O5
